US05753709
Preparation of (trans)-N-[[2-(2-Fluoro-5-methoxyphenyl)cyclopropyl]methyl]-2-methylpropanamide
(trans)-3-(2-Fluoro-5-methoxyphenyl)-2-propenenitrile: To a suspension of NaH (6.90 g, 60% dispersion in mineral oil, 173 mmol) in THF (500 mL) at 0° C. was added diethyl cyanomethylphosphonate (30.10 g, 170 mmol) dropwise. This was followed by the dropwise addition of a solution of 2-fluoro-5-methoxybenzaldehyde (24.5 g, 159 mmol) in THF (50 mL). The resulting suspension was allowed to warm to ambient temperature. After 18 h, H2O (200 mL) was added and the solution was extracted with EtOAc. The organics were combined, washed with brine, dried over MgSO4, and concentrated to afford a white waxy solid. The material was then purified by Kugelrohr distillation to give the title compound, 24.3 g (86%): mp 56°-57° C.;

reactant | (trans)-3-(2-Fluoro-5-methoxyphenyl)-2-propenenitrile | FC1=C(C=C(C=C1)OC)/C=C/C#N | C10H8FNO
reactant | NaH | 173 mmol, 6.90 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 170 mmol, 30.10 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2-fluoro-5-methoxybenzaldehyde | 159 mmol, 24.5 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
product | (trans)-N-[[2-(2-Fluoro-5-methoxyphenyl)cyclopropyl]methyl]-2-methylpropanamide | FC1=C(C=C(C=C1)OC)[C@H]1[C@@H](C1)CNC(C(C)C)=O | C15H20FNO2
